************************************** 
* SPICE STIMULI FILE 
* generated from 
************************************** 

Vvss vss 0 PWL 0n 0 
Ven_n en_n 0 PWL 0n VCC 100n VCC 101n 0 
Vminus minus 0 PWL 0n 0.6 1001n 0.6 1002n 0.601 2000n 0.601 2001n 0.6 3001n 
+0.6 3002n 0.599 
Vstart start 0 PWL 0n 0 1000n 0 1001n VCC 2000n VCC 2001n 0 3000n 
+0 3001n VCC 
Vvcc vcc 0 PWL 0n VCC 
Vplus plus 0 PWL 0n 0.6 

